2186-09-23 05:18:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2186-9-22**] 08:08 PM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2186-9-23**] 05:16 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.8
C (100
   Tcurrent: 36.9
C (98.4
   HR: 87 (85 - 102) bpm
   BP: 90/65(70) {63/48(55) - 131/70(85)} mmHg
   RR: 19 (13 - 26) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 63 Inch
             Total In:
                                                                  4,260 mL
                                                                    658 mL
   PO:
             TF:
   IVF:
                                                                  3,885 mL
                                                                    658 mL
   Blood products:
                                                                    375 mL
   Total out:
                                                                    539 mL
                                                                    130 mL
   Urine:
                                                                    539 mL
                                                                    130 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  3,721 mL
                                                                    528 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 94%
   ABG: ///14/
   Physical Examination
   General Appearance: No acute distress
   Eyes / Conjunctiva: Conjunctiva pale, Ecchymosis on head
   Head, Ears, Nose, Throat: Poor dentition
   Lymphatic: Cervical WNL, Supraclavicular WNL
   Cardiovascular: (PMI Normal), (S1: Normal), (S2: Normal), (Murmur:
   No(t) Systolic, No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : ),
   (Breath Sounds: Clear : )
   Abdominal: Soft, Bowel sounds present, Tender: Liver
   Extremities: Right: Absent, Left: Absent
   Musculoskeletal: Muscle wasting
   Skin:  Warm
   Neurologic: Responds to: Not assessed, Oriented (to): person, Movement:
   Not assessed, Tone: Not assessed, unclear about reason she is here,
   speech tangential, poor concentration, 5/5 strength, + tremor
   Labs / Radiology
   223 K/uL
   11.2 g/dL
   125 mg/dL
   0.8 mg/dL
   14 mEq/L
   3.6 mEq/L
   11 mg/dL
   123 mEq/L
   147 mEq/L
   33.9 %
   10.8 K/uL
        [image002.jpg]
                             [**2186-9-22**]  10:00 AM
                             [**2186-9-22**]  03:24 PM
                             [**2186-9-22**]  03:25 PM
                             [**2186-9-22**]  05:09 PM
   WBC
   6.7
   10.8
   Hct
   26.9
   29.5
   33.9
   Plt
   202
   223
   Cr
   0.7
   0.8
   0.8
   TropT
   <0.01
   Glucose
   142
   101
   125
   Other labs: CK / CKMB / Troponin-T:203/7/<0.01, Ca++:6.7 mg/dL,
   Mg++:2.8 mg/dL, PO4:2.9 mg/dL
   Cortisol Stimulation:
   Assessment and Plan
   A/P: Pt is a 56 y/o F with frequent falls who presents with s/p fall
   with confusion and hypotension now transferred to MICU for persistent
   hypotension despite IVF resuscitation.
   .
   # Hypotension and mental status change:  Does not appear infected or
   septic.  Unclear baseline per prior hospitalizations 110s, pt boyfriend
   reports 80s-90s. She has not been volume responsive, her lactate is
   normal.  Med effects should be resolving by now.  Patient with very
   poor nutrition/albumin 1.6. Random cortisol [**2181**] - 1.2. Pt also with
   chronic anemia however HCT drop 31-23 with IVF overnight - received 1 U
   PRBC this am with appropriate Hct increase nut no MS improvement.
   Normal [**Last Name (un) 45**] stim.
   - RUQ U/S (non portable to eval for cirrhosis)
   - Neuro consult regarding further eval of mental status change
   - Continue volume repletion - consider albumin/IVF vs PRBC given low
   albumin.
   - Will check cortisol and [**Last Name (un) 45**] stim if low
   - hold medications including atenolol, cyclobenzaprine, ativan
   - Monitor ABG, lactate
   - Continue Zosyn while awaiting urine culture results.
   - Lactulose
   - Blood cultures
   .
   # UTI:
   - await ucx
   - Zosyn abx for now.
   - f/u blood cultures
   .
   # Anemia: Hct stable
   .
   # Seizure disorder: Neuro consult - per OP records not currently on
   keppra
   .
   # hypocalcemia/hypomagnesiemia: Ca corrects to 8 with alb.
   - Calcium sliding scale
   - Mg PRN.
   .
   # Hx hypothyroidism: on levothyroxine 100mcg daily
   - Continue thyroid replacement
   - TSH < assay with normal free T4 - consider low TSH related to
   illness, no evidence of hyperthyroidism
   .
   # transaminitis: Hx of alcohol ingestion, continue to trend, RUQ US as
   above
   .
   # FEN: replete lytes prn, nutrition consult
   .
   # PPx: boots
   .
   # Access: PIV, R femoral line
   .
   # Code: Full
   .
   # Communication: with [**Doctor Last Name 435**], home [**Telephone/Fax (1) 5631**], cell [**Telephone/Fax (1) 5632**], work
   [**Telephone/Fax (1) 5633**]
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2186-9-22**] 09:32 AM
   22 Gauge - [**2186-9-22**] 09:33 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:
   ------ Protected Section ------
   I saw and examined the patient, and was physically present with the ICU
   team for the key portions of the services provided. I agree with the
   note above, including the assessment and plan. I would emphasize and
   add the following points: 56F seizures, falls, and altered mental
   status transferred for hypotension. Patient has history of UTI /
   urosepsis, had negative trauma w/u, groin line placed, sent to floor.
   Overnight, BP trended upward to SBP 80s but pt remains confused and
   with borderline urine output.
   Exam notable for:
    Tmax: 37.8
C (100
   Tcurrent: 36.9
C (98.4
   HR: 87 (85 - 102) bpm
   BP: 90/65(70) {63/48(55) - 131/70(85)} mmHg
   RR: 19 (13 - 26) insp/min
   SpO2: 94%
   Frail woman w/ poor dentition, delusional speech. CV RRR s1s2, lungs
   rales in bases o/w cta. Abd soft ntnd bs+, ext no c/c/e.
   Though some improvement in hemodyn, still with confusion and poor urine
   output.  Not clear what her baseline BP run.  Reasonable to place Aline
   for close monitoring and to r/o noninvasive BP  error.   Cont abx for
   presumed urosepsis. Following serial hct no clear source of loss.  CIWA
   scale given likely etoh dependence.  Remainder of plan as outlined
   above.
   Patient is critically ill
   Total time: 40 min
   ------ Protected Section Addendum Entered By:[**Name (NI) 391**] [**Last Name (NamePattern1) 509**], MD
   on:[**2186-9-23**] 03:08 PM ------

2186-09-24 05:16:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   PIVs established, femoral line pulled
   Patient cont to hallucinate
   Spoke with neurology resident who knows the patient well - reported
   [** 294**] is not too far off from current presentation - also, stated
   patient should likely be on [** **] when she can take POs. Recommended
   [** **] 1000 mg [**Hospital1 **]. Since not clear when or how patient has been
   taking, would start with [**Hospital1 **] 500mg [**Hospital1 **] and titrate to [**Telephone/Fax (1) 5660**]
   q3days. Also, reported patient is generally unaware of what meds and
   how much of each med she is taking at home when she presents to the
   hospital
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2186-9-23**] 12:00 PM
   Piperacillin - [**2186-9-24**] 04:00 AM
   Infusions:
   Other ICU medications:
   Other medications:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2186-9-24**] 05:15 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.6
   Tcurrent: 36.7
C (98.1
   HR: 83 (82 - 102) bpm
   BP: 90/60(67) {74/38(49) - 97/68(103)} mmHg
   RR: 23 (12 - 32) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 63 Inch
    CVP: 7 (0 - 12)mmHg
   Total In:
                                                                  5,908 mL
                                                                    388 mL
   PO:
   TF:
   IVF:
                                                                  5,908 mL
                                                                    388 mL
   Blood products:
   Total out:
                                                                    654 mL
                                                                    175 mL
   Urine:
                                                                    654 mL
                                                                    175 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  5,254 mL
                                                                    213 mL
   Respiratory support
   SpO2: 98%
   ABG: 7.52/26/73.[**Numeric Identifier 607**]/21/0
   Physical Examination
   General Appearance: No acute distress, resting comfortably, awake,
   alert, cooperative
   Eyes / Conjunctiva: Conjunctiva pale, Ecchymosis on forehead
   Head, Ears, Nose, Throat: Poor dentition.
   Cardiovascular: RRR, s1, s2 wnl no m/r/g
   Peripheral Vascular: DP 2+ bilater, radial pulses 2+ bilaterally
   Respiratory / Chest:  bibasilar rales, extending [**12-28**] way up, no rhonchi
   or wheezing
   Abdominal: Soft, Bowel sounds present, nontender
   Skin:  Warm, dry
   Neurologic: A+Ox3 appropriate, though odd affect, speaks very softly.
   Recalls having had hallucination yesterday, but says that she no longer
   sees anything. CNII-XII intact, slight asymmetry to face, though equal
   smile, eyebrow raise, tongue movements, shoulder shrug. Finger-to-nose
   intact. Strenght [**4-1**] bilaterally upper and lower. Left foot
   dorsiflexion weaker.
   Labs / Radiology
   170 K/uL
   9.6 g/dL
   113 mg/dL
   0.8 mg/dL
   21 mEq/L
   3.6 mEq/L
   11 mg/dL
   119 mEq/L
   144 mEq/L
   28.4 %
   6.1 K/uL
        [image002.jpg]
   Ca/Mg/P : 7.3, 1.7, 3.3
   COAGs: 16.0, 25.5/1.4
                             [**2186-9-22**]  10:00 AM
                             [**2186-9-22**]  03:24 PM
                             [**2186-9-22**]  03:25 PM
                             [**2186-9-22**]  05:09 PM
                             [**2186-9-23**]  04:50 AM
                             [**2186-9-23**]  04:38 PM
                             [**2186-9-23**]  05:24 PM
                             [**2186-9-24**]  03:19 AM
   WBC
   6.7
   10.8
   7.4
   6.1
   Hct
   26.9
   29.5
   33.9
   29.5
   28.4
   Plt
   [**Telephone/Fax (3) 5661**]70
   Cr
   0.7
   0.8
   0.8
   0.7
   0.8
   0.8
   TropT
   <0.01
   TCO2
   22
   Glucose
   142
   101
   125
   123
   93
   113
   Other labs: PT / PTT / INR:16.0/25.5/1.4, CK / CKMB /
   Troponin-T:203/7/<0.01, Lactic Acid:0.9 mmol/L, Ca++:7.3 mg/dL,
   Mg++:1.7 mg/dL, PO4:3.3 mg/dL
   ABD US: 1. Very limited study, liver is not well assessed. 2. No
   cholelithiasis or cholecystitis.
   CXR: [**2186-9-23**]: As compared to the previous examination, there is
   increased patient rotation. This leads to an increased transparency of
   the right hemithorax.  Presence of a small right basal abnormality can
   therefore not be excluded.  Healing right-sided rib fracture. The left
   costophrenic sinus is not ideally expanded, here a small pleural
   effusion could be present. The size of the cardiac silhouette is
   unchanged.
   Assessment and Plan
   56 y/o F with frequent falls who presents with s/p fall with confusion
   and hypotension now transferred to MICU for persistent hypotension
   despite IVF resuscitation.
   .
   # Hypotension and mental status change:  Does not appear infected or
   septic.  Unclear [**Month/Day/Year 294**] per prior hospitalizations 110s, pt boyfriend
   reports 80s-90s. She has not been volume responsive, her lactate is
   normal.  Med effects should be resolving by now.  Patient with very
   poor nutrition/albumin 1.6. Random cortisol [**2181**] - 1.2. Pt also with
   chronic anemia however HCT drop 31-23 with IVF overnight - received 1 U
   PRBC this am with appropriate Hct increase but no MS improvement.
   Normal [**Last Name (un) 45**] stim.
   - Neuro consulted: has evaled multiple times in past, no clear reason
   for apparently mild/moderate encephalopathy.
   - Continue volume repletion - consider albumin/IVF vs PRBC given low
   albumin.
   - hold medications including atenolol, cyclobenzaprine, ativan
   - Monitor ABG, lactate, f/u BCx
   - Continue Zosyn while awaiting urine culture results and speciation
   - Lactulose PRN, hold now as has diarrhea.
   .
   # UTI:
   - Ucx GNRs, awaiting  speciation and sensitivites
   - Zosyn abx for now.
   - f/u blood cultures
   .
   # Anemia: Hct stable
   .
   # Seizure disorder: Neuro consult - per OP records not currently on
   [**Last Name (LF) **], [**First Name3 (LF) 178**] not start [**First Name3 (LF) 3305**] here. Will need neurology f/u outpatient
   for continued workup.
   .
   # hypocalcemia/hypomagnesiemia: Ca corrects to 8 with alb.
   - Calcium sliding scale
   - Mg PRN.
   .
   # Hx hypothyroidism: on levothyroxine 100mcg daily
   - Continue thyroid replacement
   - TSH < assay with normal free T4 - consider low TSH related to
   illness, no evidence of hyperthyroidism
   .
   # transaminitis: Hx of alcohol ingestion, continue to trend, RUQ US as
   above, does not clearly visualize liver. Consider outpatient CT to
   futher evaluate.
   .
   # FEN: replete lytes prn, nutrition consult
   .
   # Glycemic control
   # PPx: boots
   # Access: PIV
   # Code: Full
   # Communication: with [**Doctor Last Name 435**], home [**Telephone/Fax (1) 5631**], cell [**Telephone/Fax (1) 5632**], work
   [**Telephone/Fax (1) 5633**]
   # Dispo
 called out to floor. Signed out.
   ------ Protected Section ------
   I saw and examined the patient, and was physically present with the ICU
   team for the key portions of the services provided. I agree with the
   note above, including the assessment and plan. I would emphasize and
   add the following points: 56F seizures, falls, and altered mental
   status transferred for hypotension. BP remains stable.  Neuro saw pt,
   states she is at [**Telephone/Fax (1) 294**] in terms of mentation.
   Exam notable for:
   Tmax: 37.6
C (99.6
   Tcurrent: 36.7
C (98.1
   HR: 83 (82 - 102) bpm
   BP: 90/60(67) {74/38(49) - 97/68(103)} mmHg
   RR: 23 (12 - 32) insp/min
   SpO2: 98%
   Frail woman w/ poor dentition, delusional speech.
   CV RRR s1s2
   Lungs rales in bases o/w cta.
   Abd soft ntnd bs+
   ext no c/c/e.
   Hemodyn stable, [**Telephone/Fax (1) 294**] BP not clear.  Pt boyfriend states 90s.  Not
   fluid responsive and not requiring IVF to maintain BP.  Per neuro is at
   [**Telephone/Fax (1) 294**] from MS perspective.  Appreciate recs regarding [**Telephone/Fax (1) 3305**] dosing.
   GNR from UCx
 cont zosyn pending ID / sensitivities.  Anemia drop o/n,
   transfused.  Serial hct, guiac stools.  Correctly electrolyte
   abnornalities.  MS [**First Name (Titles) **] [**Last Name (Titles) 294**] per report.  Has transaminitis
 h/o
   ETOH, following trends.  Outpt abd CT to further eval.
   ------ Protected Section Addendum Entered By:[**Name (NI) 391**] [**Last Name (NamePattern1) 509**], MD
   on:[**2186-9-24**] 06:09 PM ------